US04912100
To a solution of 4.5 g (0.019 mole) of 4-hydroxy-5,6-dihydro-6-nonyl-2-pyrone and 3.15 g (0.021 mole) of DBU in 60 ml of toluene was added dropwise. Then, 1.65 g (0.021 mole) of acetyl chloride with cooling in an ice-water bath. The mixture was stirred for 2 hours and water was added to the reaction mixture. The reaction mixture was extracted with toluene and the toluene layer was washed with an aqueous 5% Na2CO3 solution, with 2N-HCl and finally with an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed under a reduced pressure to obtain 4.7 g (yield: 89%) of 4-acetoxy-5,6-dihydro-6-nonyl-2-pyrone. The acyloxypyrone was dissolved in 30 ml of toluene and 0.13 g of 4-pyrrolidinopyridine was added to the solution. The mixture was refluxed for 3 hours. The residue obtained by evaporation of the solvent was purified by silica gel column chromatography and recrystallized to obtain 2.4 g (yield: 51%) of 3-acetyl-6-nonyltetrahydropyran-2,4-dione.

reactant | 4-hydroxy-5,6-dihydro-6-nonyl-2-pyrone | 0.019 mole, 4.5 g | OC1=CC(OC(C1)CCCCCCCCC)=O | C14H24O3
reactant | DBU | 0.021 mole, 3.15 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetyl chloride | 0.021 mole, 1.65 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-acetoxy-5,6-dihydro-6-nonyl-2-pyrone | 4.7 g, yield: 89% | C(C)(=O)OC1=CC(OC(C1)CCCCCCCCC)=O | C16H26O4
